US05939451
0.65 g (0.0021 mol) of 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in a mixture of 100 ml of methanol and 400 ml of dimethylformamide and treated with 60 ml of a solution of diazomethane in diethyl ether. The mixture was stirred at room temperature for 30 minutes. The solvent was distilled off and the residue was chromatographed over 50 g of SiO2 with 5% of methanol in methylene chloride as the eluent. There was obtained 0.24 g (35%) of 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-N-methyl-benzenesulfonamide as a yellow solid; m.p.: 79-80° C.

reactant | 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.0021 mol, 0.65 g | NC1=CC=C(C=C1)S(=O)(=O)NC1=NC(=NC(=C1)NC)NC | C12H16N6O2S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | methanol | 100 ml | CO | CH4O
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-amino-N-(2,6-bis-methylamino-pyrimidin-4-yl)-N-methyl-benzenesulfonamide | 0.24 g, 35% | NC1=CC=C(C=C1)S(=O)(=O)N(C)C1=NC(=NC(=C1)NC)NC | C13H18N6O2S
